US06103749
3-(3-cyclopentyloxy-4-methoxy-benzylamino)-4-cyanopyrazole
A solution of 3-amino-4-cyanopyrazole (5.0 g, 0.16 mol), 3-cyclopentyloxy-4-methoxybenzaldehyde (10.0 g, 0.045 mol) and sodium acetate (0.2 g, 2.4 mol) in methanol (70 mL) was placed in a stirred reaction flask equipped with a pH stat controlling a syringe pump and syringe filled with 3 N acetic acid in methanol. The pH stat was set to maintain pH 7. After 24 hours, more 3-cyclopentyloxy-4-methoxybenzaldehyde (7.0 g, 0.031 mol) was added and the reaction was continued. After 48 hours, more 3-cyclopentyloxy-4-methoxybenzaldehyde (4.0 g, 9.0 mmol) and sodium cyanoborohydride (0.5 g, 7.9 mmol) was added and the reaction was continued. After 72 hours, more sodium cyanoborohydride (0.5 g, 7.9 mmol) was added and after 96 hours, the reaction was stopped and the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate (75mL) and water (50 mL). The ethyl acetate layer was washed with water (2×50 mL) and evaporated. The crude product was chromaotgraphed over 200 g of flash chromatography silica gel. Elution with 2% methanol/methylene chloride removed some impurities including 3-cyclopentyloxy-4-methoxybenzyl alcohol. Continued elution with methanol/methylene chloride mixtures of increasing methanol concentration afforded 8 g (56%) of nearly pure title compound. Pure 3-(3-cyclopentyloxy-4-methoxy-benzylamino)-4-cyanopyrazole, mp 159-160° was obtained by recrystallization from methanol.

reactant | 3-amino-4-cyanopyrazole | 0.16 mol, 5.0 g | NC1=NNC=C1C#N | C4H4N4
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.045 mol, 10.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | sodium acetate | 2.4 mol, 0.2 g | C(C)(=O)[O-].[Na+]
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.031 mol, 7.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 9.0 mmol, 4.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | sodium cyanoborohydride | 7.9 mmol, 0.5 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 7.9 mmol, 0.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 70 mL | CO | CH4O
solvent | acetic acid | 3 N | C(C)(=O)O | C2H4O2
product | 3-(3-cyclopentyloxy-4-methoxy-benzylamino)-4-cyanopyrazole | C1(CCCC1)OC=1C=C(CNC2=NNC=C2C#N)C=CC1OC | C17H20N4O2
